US04202899
5.8 g of 5-chloro-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine (0.02 mol), 3 g of triethylamine and 3.3 g of 3-trifluoromethylaniline are refluxed in butyl alcohol for 24 hours with stirring. The solvent is removed in vacuo and the residue treated with 20 ml of water and filtered off. Recrystallization from alcohol yields 6 g of 8-ethyl-2-methyl-N-[3-(trifluoromethyl)phenyl]-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5-amine; yield (73%) m.p. 205°-206°.

reactant | 5-chloro-8-ethyl-2-methyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine | 0.02 mol, 5.8 g | ClC1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=C(C2)C | C13H11ClN6
reactant | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
reactant | 3-trifluoromethylaniline | 3.3 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | butyl alcohol | C(CCC)O | C4H10O
product | 8-ethyl-2-methyl-N-[3-(trifluoromethyl)phenyl]-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5-amine | 6 g | C(C)N1N=CC2=C1N=CC=1C(=NC=3N(C12)N=C(C3)C)NC3=CC(=CC=C3)C(F)(F)F | C20H16F3N7
